* ADG5558 SPICE Macro-model
* Generic Desc: 8-Channel Differential 32-bit ADC
* Revision History: 1.2 (12/2023)
*
* Begin Notes:
* The model provides an static approximation of analog input impedances and power  
* consumption for nominal applications (AVDD=5V, TVDD=3.3V, Fs=96kHz, BCLK=64fs)
* VDD18 is assumed to always be an LDO output but can be turned on/off
*
* Not Modeled:
* Transient characteristics or digital/clocking characteristics
*
* Parameters modeled include:
*	Analog Input Impedance
*	AVDD, TVDD, and VREF Current
*   VDD18 LDO Output and Pulldown
*   Digital IO Leakage Current
*
* Connections
*	1  = AVSS1		17  = AIN7P		33  = BCLK/DCLK			49  = DIF0/DSDSEL0
*	2  = AVDD1		18  = AIN7N		34  = LRCLK/DSDOL1		50  = DIF1/DSDSEL1
*	3  = AIN3P		19  = VREFH4	35  = TDMIN/DSDOR1		51  = TDM0
*	4  = AIN3N		20  = VREFL4	36  = SDTO1/DSDOL2		52  = TDM1
*	5  = VREFL2		21  = AIN8N		37  = SDTO2/DSDOR2		53  = PSN/CAD0_SPI
*	6  = VREFH2		22  = AIN8P		38  = SDTO3/DSDOL3		54  = I2C
*	7  = AIN4N		23  = TEST		39  = SDTO4/DSDOR3		55  = DP
*	8  = AIN4P		24  = MCLK		40  = DSDOL4			56  = HPFE/DCKS
*	9  = AIN5P		25  = TVDD		41  = DSDOR4			57  = LDOE
*	10  = AIN5N		26  = DVSS		42  = OVF				58  = ODP
*	11  = VREFH3	27  = VDD18		43  = CKS0/SDA/CDTI		59  = AIN1P
*	12  = VREFL3	28  = PDN		44  = CKS1/CAD0_I2C/CSN	60  = AIN1N
*	13  = AIN6N		29  = PW0		45  = CKS2/SCL/CCLK		61  = VREFL1
*	14  = AIN6P		30  = PW1		46  = CKS3/CAD1			62  = VREFH1
*	15  = AVDD2		31  = PW2		47  = SLOW/DCKB			63  = AIN2N
*	16  = AVSS2		32  = MSN		48  = SD/PMOD			64  = AIN2P
*															65  = EPAD

.SUBCKT AK5558 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 37 38 39 40 41 42 43 44 45 46 47 48 49 50 51 52 53 54 55 56 57 58 59 60 61 62 63 64 65

.PARAM 
+   R_PULLDOWN_500 = { IF( (V(28)<=(V(25)*0.5)) & ((V(57)>=(V(25)*0.5) & V(57)<=3.4)) , 500 , 100E06 ) }
+   R_VDD18_OUT    = { 0.5 }

* VDD18 LDO
EVDD18  66 26 VALUE = { IF((V(28)>=(V(25)*0.5)) & (V(57)>=(V(25)*0.5)), 1.8 , 0 ) }
RVDD18  66 26 { R_PULLDOWN_500 }
RVDDOUT 66 27 { R_VDD18_OUT }

* POWER PIN APPROXIMATION
RAVDD1 2 1 { IF(V(28)>=(V(25)*0.5) , 185 , 150000 ) }
RAVDD2 15 16 { IF(V(28)>=(V(25)*0.5) , 185 , 150000 ) }
RTVDD 25 26 { IF(V(28)>=(V(25)*0.5) , 118 , 100000 ) }

* ADC REFERENCE PINS
RVREF1 62 61 50E03
RVREF2 6 5 50E03
RVREF3 11 12 50E03
RVREF4 19 20 50E03

* ANALOG INPUT PINS
X12P 59 64 1 61 62 AK5558_AIN_PIN
X12N 60 63 1 61 62 AK5558_AIN_PIN
X34P 3 8 1 5 6 AK5558_AIN_PIN
X34N 4 7 1 5 6 AK5558_AIN_PIN
X56P 9 14 16 12 11 AK5558_AIN_PIN
X56N 10 13 16 12 11 AK5558_AIN_PIN
X78P 17 22 16 20 19 AK5558_AIN_PIN
X78N 18 21 16 20 19 AK5558_AIN_PIN

* DIGITAL IO PINS
RDIO23 23 26 100E03
RDIO24 24 26 1E06
RDIO28 28 26 1E06
RDIO29 29 26 1E06
RDIO30 30 26 1E06
RDIO31 31 26 1E06
RDIO32 32 26 1E06

RDIO33 33 26 100E03
RDIO34 34 26 100E03
RDIO35 35 26 100E03

RDIO36 36 26 5E03
RDIO37 37 26 5E03
RDIO38 38 26 5E03
RDIO39 39 26 5E03
RDIO40 40 26 5E03
RDIO41 41 26 5E03
RDIO42 42 26 5E03

RDIO43 43 26 50e03
RDIO44 44 26 1E06
RDIO45 45 26 50e03
RDIO46 46 26 1E06

RDIO47 47 26 1E06
RDIO48 48 26 1E06
RDIO49 49 26 1E06
RDIO50 50 26 1E06
RDIO51 51 26 1E06
RDIO52 52 26 1E06
RDIO53 53 26 1E06
RDIO54 54 26 1E06
RDIO55 55 26 1E06
RDIO56 56 26 1E06
RDIO57 57 26 1E06

.ENDS AK5558

* AK5558 ADC Input Pin Impedance, Crosstalk, and Clipping
* Connections
*	1 = AIN1    2 = AIN2    3 = AGND    4 = VREFL    5 = VREFH
.SUBCKT AK5558_AIN_PIN 1 2 3 4 5

.PARAM 
+   DCLAMP_VJ     = {  0.2013 }
+   DCLIP_EG      = {  0.69 }
+   ADC_AIN_R     = {  10.4E03 }
+   ADC_MIN_SCALE = { -0.526 * (0.56 - 1) }
+   ADC_MAX_SCALE = {  0.482 * (0.56 + 1) }
+   ADC_MIN_VREFL = { -0.3 }
+   ADC_MAX_VREFH = {  3.6 }
+   ADC_REF_MIN   = { IF((V(4) <= ADC_MIN_VREFL), ADC_MIN_VREFL, V(4)) }
+   ADC_REF_MAX   = { IF((V(5) >= ADC_MAX_VREFH), ADC_MAX_VREFH, V(5)) }
+   ADC_REF_RANGE = { IF((V(5) <= V(4)), 0, (ADC_REF_MAX - ADC_REF_MIN)) }

* Uncomment these lines to simulate input clip @ +/- 2.82 Vpp
* ECLAMPL 7 3 VALUE={ (ADC_REF_RANGE * ADC_MIN_SCALE) + DCLIP_EG }
* ECLAMPH 8 3 VALUE={ (ADC_REF_RANGE * ADC_MAX_SCALE) - DCLIP_EG }
* XFS1 7 8 1 AK5558_DCLAMP
* XFS2 7 8 2 AK5558_DCLAMP

* Uncomment these lines to simulate input clip @ VREFL/VREFH
EAINVLIML 11 3 VALUE={ ADC_REF_MIN }
EAINVLIMH 12 3 VALUE={ ADC_REF_MAX }
XAINVLIM1 11 12 1 AK5558_DCLAMP
XAINVLIM2 11 12 2 AK5558_DCLAMP

EBIAS NBIAS 0 VALUE={ ADC_REF_MIN + (ADC_REF_RANGE / 2) }
R1 1 6 { ADC_AIN_R }
R2 2 6 { ADC_AIN_R }
RX1 6 NBIAS 10.4E-03
RX2 1 2 104E06
C1 1 3 100E-12
C2 2 3 100E-12

.ENDS AK5558_AIN_PIN

* Analog Signal Clamp
* Uses a BAT54 Schottky diode model; the resistors do not reflect devices.
* Instead they improve modeling in the reverse mode of operation.
* Connections
*	1 = VLOW    2 = VHIGH    3 = SIG
.SUBCKT AK5558_DCLAMP 1 2 3

.PARAM
+   C1 = { 10E-12 }
+   C2 = { 10E-12 }
+   R1 = { 3.6E+07 }
+   R2 = { 3.6E+07 }

.MODEL BAT54 D( 
+    IS = 2.117E-07 
+    N = 1.016 
+    BV = 36 
+    IBV = 1.196E-06 
+    RS = 2.637 
+    CJO = 1.114E-11 
+    VJ = 0.2013 
+    M = 0.3868 
+    FC = 0.1 
+    TT = 5E-09 
+    EG = 0.69 
+    XTI = 2) 

C1 1 3 {C1}
R1 1 3 {R1}
D1 1 3 BAT54
C2 3 2 {C2}
R2 3 2 {R2}
D2 3 2 BAT54

.ENDS AK5558_DCLAMP
